US05859007
12.68 g (50.7 mmol) 6-Fluoro-3-methyl-indazole-1-carboxylic acid tert-butyl ester, prepared as in Part C, is combined with 9.92 g (55.7 mmol, 1.1 equiv) N-Bromosuccinimide and 1.23 g (5.1 mmol, 0.1 equiv) Benzoyl peroxide in 600 mL CCl4 and refluxed 10 h. The reaction mixture is filtered and the filtrate concentrated in vacuo and purified by flash chromatography on 300 g silica gel eluted successively with DCM/Hexanes (1:2, 3 L), (1:1, 3 L). Appropriate fractions were combined and concentrated in vacuo to give 10.18 g (30.9 mmol) of 3-Bromomethyl-6-fluoro-1-tert-butoxycarbonyl-1H-indazole as an amber oil: 1H NMR (CDCl3, 300 MHz) δ7.82 (m, 2H), 7.13 (m, 1H), 4.76 (s, 2H), 1.72 (s, 9H); TLC Rf =0.17 (EtOAc/Hexanes, 1:19).

reactant | 6-Fluoro-3-methyl-indazole-1-carboxylic acid tert-butyl ester | 50.7 mmol, 12.68 g | C(C)(C)(C)OC(=O)N1N=C(C2=CC=C(C=C12)F)C | C13H15FN2O2
reactant | N-Bromosuccinimide | 55.7 mmol, 9.92 g, 1.1 equiv | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | Benzoyl peroxide | 5.1 mmol, 1.23 g, 0.1 equiv | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | CCl4 | 600 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3-Bromomethyl-6-fluoro-1-tert-butoxycarbonyl-1H-indazole | 30.9 mmol, 10.18 g | BrCC1=NN(C2=CC(=CC=C12)F)C(=O)OC(C)(C)C | C13H14BrFN2O2
